US04454338
Synthesis of 6-amidino-2-naphthyl 4-dimethylaminobenzoate:
To 50 ml of dried pyridine, were added 2.9 g of 4-dimethylaminobenzoic acid and 4.4 g of DCC. The mixture was stirred for 30 minutes while being cooled in ice. After adding 5.0 g of 6-amidino-2-naphthol methanesulfonate, the mixture was further stirred for one hour under cooling in ice, then overnight at room temperature. The reaction mixture was filtered, the collected precipitate was washed with pyridine and ethyl ether and heated in DMF. The insolubles were filtered off and the filtrate was mixed with ethyl ether. The precipitate which was formed was collected by filtration and recrystallized from a mixture of methanol and ethyl ether to obtain 1.2 g of a white powder of 6-amidino-2-naphthyl 4-dimethylaminobenzoate methanesulfonate.

reactant | 4-dimethylaminobenzoic acid | 2.9 g | CN(C1=CC=C(C(=O)O)C=C1)C | C9H11NO2
reactant | DCC | 4.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 6-amidino-2-naphthol methanesulfonate | 5.0 g | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C12H12N2O3S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl 4-dimethylaminobenzoate | 1.2 g | CN(C1=CC=C(C(=O)OC2=CC3=CC=C(C=C3C=C2)C(N)=N)C=C1)C | C20H19N3O2
